US04348530
Dry sodium thiophenolate prepared from 7.5 g (0.33 gram equivalent) of sodium, 300 ml of methanol and 36 ml (0.33 mol) of thiophenol is dissolved in 300 ml of dimethylsulfoxide, and 80.4 g (0.3 mol) of 3-nitrophthalic acid N-phenylimide are added. The reaction mixture is heated at 50° C. for 90 minutes and then poured into a mixture of 300 ml of water and 300 ml of anhydrous acetic acid. The resulting suspension is filtered with suction and the product is dried at 80° C./13,000 Pa. 100 g (100% of theory) of 3-phenylthiophthalic acid N-phenylimide are obtained.

reactant | sodium thiophenolate | C1(=CC=CC=C1)[S-].[Na+]
reactant | sodium | 7.5 g | [Na] | Na
reactant | thiophenol | 0.33 mol, 36 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 3-nitrophthalic acid N-phenylimide | 0.3 mol, 80.4 g | C1(=CC=CC=C1)N=C(C=1C(C(=O)O)=C(C=CC1)[N+](=O)[O-])O | C14H10N2O5
solvent | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 3-phenylthiophthalic acid N-phenylimide | 100 g, 100% | C1(=CC=CC=C1)N=C(C=1C(C(=S)O)=CC=CC1C1=CC=CC=C1)O | C20H15NO2S
